US05440052
Triphenylphosphine and 4-phenoxybutyl bromide were refluxed in benzene for 36 hours to yield triphenyl(4-phenoxybutyl)phosphonium bromide in 81% yield.

reactant | Triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-phenoxybutyl bromide | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | triphenyl(4-phenoxybutyl)phosphonium bromide | 81% yield | [Br-].C1(=CC=CC=C1)[P+](CCCCOC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H28OP.BrH/c1-5-15-25(16-6-1)29-23-13-14-24-30(26-17-7-2-8-18-26,27-19-9-3-10-20-27)28-21-11-4-12-22-28;/h1-12,15-22H,13-14,23-24H2;1H/q+1;/p-1
